US05366989
A mixture of 2.4 g of ethyl 3-(2,4-difluorophenyl)-3,4-epoxy-2-fluorobutyrate (a mixture of diastereomers) and 6.4 g of 1,2,4-triazole was subjected to reaction at 90°-100° C. for 8 hours. To the reaction mixture were then added 10 ml of ethyl acetate and 5 ml of water. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant: chloroform/methanol=20/1) to obtain 650 mg of ethyl 3-(2,4-difluorophenyl)-2-fluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrate (one of the diastereomers).

reactant | ethyl 3-(2,4-difluorophenyl)-3,4-epoxy-2-fluorobutyrate | 2.4 g | FC1=C(C=CC(=C1)F)C1(C(C(=O)OCC)F)CO1 | C12H11F3O3
reactant | 1,2,4-triazole | 6.4 g | N1N=CN=C1 | C2H3N3
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 5 ml | O | H2O
product | ethyl 3-(2,4-difluorophenyl)-2-fluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrate | 650 mg | FC1=C(C=CC(=C1)F)C(C(C(=O)OCC)F)(CN1N=CN=C1)O | C14H14F3N3O3
